US08071588B2
A mixture of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride (400 mg, 1.18 mmol), 3-(ethyloxy)-3-oxopropanoic acid (171 mg, 1.30 mmol), HBTU (535 mg, 1.41 mmol) and Et3N (0.82 mL, 5.89 mmol) in DCM (8 mL) was stirred at room temperature over the weekend. It was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with water followed by a brine wash. The organic layer was dried over sodium sulfate, filtered, concentrated and purified with CombiFlash eluting with 90% ethyl acetate in hexane. The product fractions were combined and concentrated to give ethyl 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoate as an oil (270 mg, 55%). LC-MS m/z 418 (M+H)+.

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride | 1.18 mmol, 400 mg | Cl.NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2
reactant | 3-(ethyloxy)-3-oxopropanoic acid | 1.30 mmol, 171 mg | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | HBTU | 1.41 mmol, 535 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 5.89 mmol, 0.82 mL | CCN(CC)CC | C6H15N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoate | 270 mg, 55% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)OCC)=O)CC | C21H31N5O4
